US07786132B2
(i) 2-Chloro-4-(5-chlorothiophen-2-yl)pyrimidine
The title compound was prepared from 2-chlorothiophene and 2-chloropyrimidine in a manner analogous to Example 249, Step 1. MS (M+H)+ 231.

reactant | 2-chlorothiophene | ClC=1SC=CC1 | C4H3ClS
reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
product | 2-Chloro-4-(5-chlorothiophen-2-yl)pyrimidine | ClC1=NC=CC(=N1)C=1SC(=CC1)Cl | C8H4Cl2N2S
